US07476759B2
4-Amino-2-(4-hydroxyphenyl)-4-oxobutanoic acid
A suspension of benzyl 4-amino-2-(4-hydroxyphenyl)-4-oxobutanoate (327 mg, 1.09 mmol) and palladium on charcol (10%, 50 mg) in ethanol (30 mL) was stirred under a hydrogen atmosphere for 2 h. After replacement of hydrogen with nitrogen the crude reaction mixture was filtered through a thin pad of celite and the filtrate evaporated to dryness to give the title compound as a white solid (229 mg, 100%). LC/MS: 0.81 min; z/e 210, calcd (M+1) 210. 1H NMR (400 MHz: DMSO-d6): 11.9 (1H), 9.10 (1H), 7.10 (1H), 6.85 (2H), 6.55 (1H), 6.50 (2H), 3.60 (1H), 2.60 (1H), 2.15 (1H).

reactant | benzyl 4-amino-2-(4-hydroxyphenyl)-4-oxobutanoate | 1.09 mmol, 327 mg | NC(CC(C(=O)OCC1=CC=CC=C1)C1=CC=C(C=C1)O)=O | C17H17NO4
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | 4-Amino-2-(4-hydroxyphenyl)-4-oxobutanoic acid | 229 mg, 100% | NC(CC(C(=O)O)C1=CC=C(C=C1)O)=O | C10H11NO4
